US07897597B2
Under a nitrogen atmosphere, solid sodium thiomethoxide (1.38 g, 18.7 mmol, 95% pure) was added to a solution of 6-benzyloxy-N-(5-chloropentyl)-3-nitroquinolin-4-amine (6.24 g, 15.6 mmol) in DMF. The reaction was stirred at ambient temperature for 30 minutes and then heated at 80° C. for one hour, at which time a yellow precipitate formed. The reaction mixture was partitioned between water (390 mL) and dichloromethane (150 mL). The aqueous layer was washed with dichloromethane (100 mL), and the combined organic fractions were washed with saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide a red oil. An analysis by nuclear magnetic resonance spectroscopy indicated the presence of a large amount of starting material. The reaction product was dissolved in DMF (78 mL), treated with sodium thiomethoxide, and heated at reflux for two hours. The work-up described above was repeated, and the crude product was purified by column chromatography on silica gel (eluting with 70:30 ethyl acetate:hexane) to provide 5.1 g of 6-benzyloxy-N-[5-(methylthio)pentyl]-3-nitroquinolin-4-amine as a yellow oil.

reactant | sodium thiomethoxide | 18.7 mmol, 1.38 g | C[S-].[Na+]
reactant | 6-benzyloxy-N-(5-chloropentyl)-3-nitroquinolin-4-amine | 15.6 mmol, 6.24 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCCCCl | C21H22ClN3O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 78 mL | CN(C)C=O | C3H7NO
product | 6-benzyloxy-N-[5-(methylthio)pentyl]-3-nitroquinolin-4-amine | 5.1 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCCCSC | C22H25N3O3S
